US07713996B2
Bromo-tris-pyrrolidino-phosphonium hexafluorophosphate (6.03 g, 12.9 mmol, 1.1 equiv.) and diisopropyl ethyl amine (3.19 g, 12.9 mmol, 1.1 equiv.) were added to a solution of quinoline-7-carboxylic acid (2.03 g, 11.75 mmol) in tetrahydrofuran (100 ml) and the resultant mixture stirred for 10 minutes. 4-Amino-2-chlorobenzoic acid methyl ester (2.40 g, 12.9 mmol, 1.1 equiv.) in tetrahydrofuran (20 ml) was added and the mixture refluxed for 16 hours. Additional Bromo-tris-pyrrolidino-phosphonium hexafluorophosphate (1.10 g, 2.36 mmol, 0.2 equiv.) and diisopropyl ethyl amine (0.61 g, 4.7 mmol, 0.4 equiv.) were added and the mixture refluxed for a further 16 hours. The mixture was evaporated then dissolved in isopropanol (100 ml). Water (5 ml) and 60% aqueous perchloric acid (0.5 ml) were added and the mixture was refluxed for 24 hours. The mixture was filtered while hot then left to cool to room temperature whereupon a crystalline solid was formed. The solid was filtered and washed with cold isopropanol (20 ml) and dichloromethane (20 ml) to give 2-chloro-4-[(quinoline-7-carbonyl)-amino]-benzoic acid methyl ester, 1.42 g (35% yield), as a tan solid. LC @215 nm; Rt 1.11: 100%, m/z (ES+): 341 (M+H+.); δH (400 MHz; d6-DMSO) 10.96 (1H, br.s), 9.05 (1H, m), 8.73 (1H, s), 8.49 (1H, d), 8.18-8.10 (3H, m), 7.94 (2H, s), 7.68 (1H, dd), 3.86 (3H, s).

reactant | Bromo-tris-pyrrolidino-phosphonium hexafluorophosphate | 12.9 mmol, 6.03 g, 1.1 equiv. | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | diisopropyl ethyl amine | 12.9 mmol, 3.19 g, 1.1 equiv. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | quinoline-7-carboxylic acid | 11.75 mmol, 2.03 g | N1=CC=CC2=CC=C(C=C12)C(=O)O | C10H7NO2
reactant | 4-Amino-2-chlorobenzoic acid methyl ester | 12.9 mmol, 2.40 g, 1.1 equiv. | COC(C1=C(C=C(C=C1)N)Cl)=O | C8H8ClNO2
reactant | Bromo-tris-pyrrolidino-phosphonium hexafluorophosphate | 2.36 mmol, 1.10 g, 0.2 equiv. | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | diisopropyl ethyl amine | 4.7 mmol, 0.61 g, 0.4 equiv. | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-chloro-4-[(quinoline-7-carbonyl)-amino]-benzoic acid methyl ester | 35% yield | COC(C1=C(C=C(C=C1)NC(=O)C1=CC=C2C=CC=NC2=C1)Cl)=O | C18H13ClN2O3
